US08058300B2
Step 4: 1-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester:
1-(4-Bromo-phenyl)-cyclopropanecarboxylic acid ethyl ester (3.6 g, 13.4 mmol), bis(pinacolato)diboron (3.37 g, 16.1 mmol), and potassium acetate (2.8 g, 29 mmol) were combined in 1,4-dioxane (30 mL). The solution was purged with N2 for 10 minutes, and then (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) (0.50 g, 0.65 mmol) was added and the reaction was heated to 80° C. for 2 hours. Aqueous work-up, followed by silica gel chromatography (0-30% EtOAc in hexanes), gave the title compound.

reactant | 1-(4-Bromo-phenyl)-cyclopropanecarboxylic acid ethyl ester | 13.4 mmol, 3.6 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)Br | C12H13BrO2
reactant | bis(pinacolato)diboron | 16.1 mmol, 3.37 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 29 mmol, 2.8 g | C(C)(=O)[O-].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | (1,1′-bis(diphenylphosphino)ferrocene)-dichloropalladium(II) | 0.65 mmol, 0.50 g | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 1-[4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H25BO4
